US08193351B2
Step 10: Synthesis of 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-(2-methoxyphenylsulfanyl)-[1,3,5]triazin-2-ylamine
2-Methoxythiophenol (39 mg, 0.278 mmol) was added to a suspension of potassium carbonate (95.7 mg, 0.692 mmol) and 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine (50 mg, 0.139 mmol) in N,N-dimethylformamide (2.5 mL) at room temperature under argon atmosphere. The reaction solution was stirred at 85° C. for 12 hours, and then allowed to return to room temperature. The reaction solution was diluted with ethyl acetate, and then water was added. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography using methylene chloride-ethyl acetate (mixing ratio=7:1 to 4:1) and dried under reduced pressure to give the title compound (34 mg, 56%).

reactant | 2-Methoxythiophenol | 0.278 mmol, 39 mg | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium carbonate | 0.692 mmol, 95.7 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-methylsulfinyl-[1,3,5]triazin-2-ylamine | 0.139 mmol, 50 mg | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)S(=O)C)N | C17H14ClN5O2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(5-chloro-6-cyano-1H,3H benzo[de]isochromen-6-yl)-6-(2-methoxyphenylsulfanyl)-[1,3,5]triazin-2-ylamine | 34 mg, 56% | ClC1C(C=2C=3C(COCC3C=CC2)=C1)(C#N)C1=NC(=NC(=N1)SC1=C(C=CC=C1)OC)N | C23H18ClN5O2S
